US04202697
(c) N-p-propionylphenyl-methacrylamide
A small amount of m-dinitrobenzene and copper(II) acetate were added whereupon a solution of 124.5 g of methacrylyl chloride (1 mole) in 125 ml of dioxan were added dropwise. The temperature was kept at 20°-25° C. Stirring was then continued for 30 min whilst slowly heating until reflux. Light yellow needles were sucked off, washed with ether, and dried under vacuum.

reactant | m-dinitrobenzene | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | methacrylyl chloride | 1 mole, 124.5 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dioxan | 125 ml | O1CCOCC1 | C4H8O2
catalyst | copper(II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-p-propionylphenyl-methacrylamide | C(CC)(=O)C1=CC=C(C=C1)NC(C(=C)C)=O | C13H15NO2
